//input.scs
global 0

parameters VI=1

save I O V0:p R1:1
V0 (I 0) vsource type=dc mag=1 dc=VI
R0 (I O) resistor r=1k
C0 (O 0) capacitor c=1p ic=0
R1 (O 0) resistor r=1k

options options rforce=1m bin_relref=yes

dc1 dc
dc2 dc param=VI start=0 stop=10
ac ac start=1 stop=1G
tran tran stop=5n